US05569768
Dicyclohexylcarbodiimide (0.11 moles, 2.26 g), hydroxybenzotriazole (0.011 moles, 1.48 g) and monomethylsuccinate (0.011 moles, 1.45 g) were dissolved in 75 ml of DMF. 2-(3,4-Diaminophenyl)benzonitrile (0.01 moles, 2.0 g) was added. The reaction was stirred at room temperature for 48 hours. The solvent was removed in vacuo. The residue was dissolved in ethyl acetate and washed thoroughly with brine. The ethyl acetate solution was dried over sodium sulfate and filtered. The solvent was removed. The residue was purified by HPLC on silica gel eluted with ethyl acetate. The material was dissolved in 400 ml toluene with 5 mg of p-toluenesulfonic acid and refluxed for 8 hours. The solvent was removed. The residue was purified by HPLC on silica gel eluted with ethyl acetate to yield 2.3 g of methyl 3-[5-(2-cyanophenyl)-1H-benzimidazole-2-yl]propionate. (MS).

reactant | Dicyclohexylcarbodiimide | 0.11 moles, 2.26 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | hydroxybenzotriazole | 0.011 moles, 1.48 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | monomethylsuccinate | 0.011 moles, 1.45 g | COC(CCC(=O)[O-])=O
reactant | 2-(3,4-Diaminophenyl)benzonitrile | 0.01 moles, 2.0 g | NC=1C=C(C=CC1N)C1=C(C#N)C=CC=C1 | C13H11N3
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | methyl 3-[5-(2-cyanophenyl)-1H-benzimidazole-2-yl]propionate | 2.3 g | C(#N)C1=C(C=CC=C1)C1=CC2=C(NC(=N2)CCC(=O)OC)C=C1 | C18H15N3O2
